US04880822
5-Nitro-N-(4-pyridinyl)-1H-indol-1-amine hydrochloride
A solution of 5-nitro-1H-indol-1-amine (4.5 g) and 4-chloropyridine hydrochloride (4.5 g) in 175 ml of isopropanol was stirred at reflux for two hours, another equivalent of 4-chloropyridine hydrochloride was added and the mixture was refluxed for two additional hours. The reaction mixture was then cooled, stirred with water, basified with sodium carbonate and extracted with ethyl acetate. The organic extract was washed with water and saturated sodium chloride solution, was dried (MgSO4), filtered and concentrated to 9 g of dark oil. This oil was purified by flash chromatography (silica, ethyl acetate) to give 3.8 g of light brown solid, m.p. 183°-184°. This material was converted to the hydrochloride salt and recrystallized twice from methanol/ether to give 3.5 g of orange needles, d 300°-302°.

reactant | 5-nitro-1H-indol-1-amine | 4.5 g | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)N | C8H7N3O2
reactant | 4-chloropyridine hydrochloride | 4.5 g | Cl.ClC1=CC=NC=C1
reactant | water | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | isopropanol | 175 ml | C(C)(C)O | C3H8O
product | 5-Nitro-N-(4-pyridinyl)-1H-indol-1-amine hydrochloride | 3.8 g | Cl.[N+](=O)([O-])C=1C=C2C=CN(C2=CC1)NC1=CC=NC=C1 | InChI=1S/C13H10N4O2.ClH/c18-17(19)12-1-2-13-10(9-12)5-8-16(13)15-11-3-6-14-7-4-11;/h1-9H,(H,14,15);1H
